### PR TITLE
add basics about minimal models to BSD.lean

### PR DESCRIPTION
**Pull request by BarinderBanwait**
this PR adds some basic things about minimal models of elliptic curves. 

this will be required for when we define the real period (one of the things in the BSD formula), which btw @WilliamCoram is doing in #5327 

Fable has helped with this, so i request @multramate David Ang to review it critically

if it goes in, then with William's work we should get the real period

### CODE REVIEW

File: FormalConjectures/Millenium/BSD.lean [hunk 1]
```diff
@@ -37,8 +37,107 @@ import FormalConjecturesUtil
...
+  simpa [abs_pow, pow_eq_one_iff_of_nonneg] using h
+
+open IsDedekindDomain in
+/-- An elliptic curve over $\mathbb{Q}$ is globally minimal if and only if its coefficients lie in
+$\mathbb{Z}$ and it is minimal at every prime. This is [Silverman2009], Corollary VIII.8.3, together
+with Proposition VII.1.3; it uses that $\mathbb{Z}$ is a principal ideal domain. -/
+@[category textbook, AMS 11 14]
+theorem isGlobalMinimal_iff_forall_isMinimal (W : WeierstrassCurve ℚ) [W.IsElliptic] :
+    W.IsGlobalMinimal ↔ W.IsIntegral ℤ ∧ ∀ v : HeightOneSpectrum ℤ,
+      (W.baseChange (v.adicCompletion ℚ)).IsMinimal (v.adicCompletionIntegers ℚ) := by
```
Comment (Multramate) [inline FormalConjectures/Millenium/BSD.lean]: Genuine question: would it be easier to prove a globally minimal model exists if we used this as the definition instead? The current definition and proof is already easy enough, but I'm asking this because we may or may not eventually want to use this as the definition in mathlib, to match "IsMinimal" in the local case, but I don't actually have a plan just yet.

Comment (BarinderBanwait) [reply FormalConjectures/Millenium/BSD.lean]: hmmm, let me play with making that the definition ...

Comment (Multramate) [reply FormalConjectures/Millenium/BSD.lean]: With that definition, you can easily generalise it to any number field, and then you can prove one exists if the class number is one. I don't know how easy that would be though.

Comment (BarinderBanwait) [reply FormalConjectures/Millenium/BSD.lean]: ok latest commit has attempted to carry this out plz take look

File: FormalConjectures/Millenium/BSD.lean [hunk 2]
```diff
@@ -37,8 +37,128 @@ import FormalConjecturesUtil
...
+    (C : VariableChange ℚ) (hC : (C • W).IsIntegral ℤ) : |W.Δ| ≤ |(C • W).Δ| :=
+  ((isGlobalMinimal_iff_abs_Δ_le W).1 inferInstance).2 C hC
+
+/-- Every Weierstrass equation over $\mathbb{Q}$ is isomorphic to a globally minimal one. -/
+@[category API, AMS 11 14]
+theorem exists_isGlobalMinimal (W : WeierstrassCurve ℚ) :
+    ∃ C : VariableChange ℚ, IsGlobalMinimal (C • W) := by
+  obtain ⟨C, hC, hmin⟩ := W.exists_isIntegral_minimal_abs_Δ
+  refine ⟨C, (isGlobalMinimal_iff_abs_Δ_le (C • W)).2 ⟨hC, fun C' hC' ↦ ?_⟩⟩
+  simpa [mul_smul] using hmin (C' * C) (by simpa [mul_smul] using hC')
```
Comment (Multramate) [inline FormalConjectures/Millenium/BSD.lean]: Lol is it actually harder to prove existence with the new definition? That's annoying.

Comment (BarinderBanwait) [reply FormalConjectures/Millenium/BSD.lean]: can't have your cake and eat it too 😅 

i don't mind which definition to take

**Comment by BarinderBanwait** [comment]
@Multramate your suggestion has been applied, please take a look

File: FormalConjectures/Millenium/BSD.lean [hunk 3]
```diff
@@ -37,8 +37,80 @@ import FormalConjecturesUtil
...
+
+section GlobalMinimal
+
+/-- Over a number field of class number one, every Weierstrass equation has a globally minimal
+model. See [Silverman2009], Corollary VIII.8.3. For zero discriminant, integrality suffices. -/
+@[category textbook, AMS 11 14]
+theorem exists_isGlobalMinimal {K : Type*} [Field K] [NumberField K] (W : WeierstrassCurve K)
+    (hK : NumberField.classNumber K = 1) :
+    ∃ C : VariableChange K, (C • W).IsGlobalMinimal := by
+  sorry
```
Comment (Multramate) [inline FormalConjectures/Millenium/BSD.lean]: Did Claude say this is genuinely hard?

Comment (BarinderBanwait) [reply FormalConjectures/Millenium/BSD.lean]: here's what Astra says about it:

this will require a substantial local-to-global argument that produces an integral model over ℚ with smaller |Δ|. This requires approximation and control of denominators; estimate about 500-1000+ LOC

personally i think this is beyond the scope of this PR; it can be added down the line

**Comment by BarinderBanwait** [comment]
@Multramate definition of minimal discriminant ideal now there, other tings about minimal models moved to other folders

File: FormalConjecturesForMathlib/AlgebraicGeometry/EllipticCurve/GlobalMinimal.lean [hunk 4]
```diff
@@ -0,0 +1,122 @@
...
+section NumberField
+
+variable {K : Type*} [Field K] [NumberField K]
+
+/-- A Weierstrass equation over a number field is globally minimal if it is integral over the
+ring of integers and minimal at every finite prime. -/
+@[mk_iff]
+class IsGlobalMinimal (W : WeierstrassCurve K) : Prop extends W.IsIntegral (𝓞 K) where
+  isMinimal : ∀ v : HeightOneSpectrum (𝓞 K),
+    (W.baseChange (v.adicCompletion K)).IsMinimal (v.adicCompletionIntegers K)
```
Comment (Multramate) [inline FormalConjecturesForMathlib/AlgebraicGeometry/EllipticCurve/GlobalMinimal.lean]: You can use `\textf` for base change.

File: FormalConjecturesForMathlib/AlgebraicGeometry/EllipticCurve/GlobalMinimal.lean [hunk 5]
```diff
@@ -0,0 +1,122 @@
...
+
+attribute [instance] IsGlobalMinimal.isMinimal
+
+/-- A globally minimal equation is integral and minimal at every finite prime. -/
+theorem isGlobalMinimal_iff_forall_isMinimal (W : WeierstrassCurve K) :
+    W.IsGlobalMinimal ↔ W.IsIntegral (𝓞 K) ∧ ∀ v : HeightOneSpectrum (𝓞 K),
+      (W.baseChange (v.adicCompletion K)).IsMinimal (v.adicCompletionIntegers K) :=
+  isGlobalMinimal_iff W
```
Comment (Multramate) [inline FormalConjecturesForMathlib/AlgebraicGeometry/EllipticCurve/GlobalMinimal.lean]: This feels redundant? I think `isGlobalMinimal_iff` is auto-generated so you don't need this?

File: FormalConjecturesForMathlib/AlgebraicGeometry/EllipticCurve/GlobalMinimal.lean [hunk 6]
```diff
@@ -0,0 +1,122 @@
...
+  constructor
+  · rintro ⟨⟨W', rfl⟩⟩
+    refine ⟨⟨W'.map Rat.ringOfIntegersEquiv.toRingHom, ?_⟩⟩
+    ext <;> simp [baseChange]
+  · rintro ⟨⟨W', rfl⟩⟩
+    refine ⟨⟨W'.map Rat.ringOfIntegersEquiv.symm.toRingHom, ?_⟩⟩
+    ext <;> simp [baseChange]
+
+instance (W : WeierstrassCurve ℚ) [W.IsIntegral (𝓞 ℚ)] : W.IsIntegral ℤ :=
+  (isIntegral_ringOfIntegers_rat_iff W).1 inferInstance
```
Comment (Multramate) [inline FormalConjecturesForMathlib/AlgebraicGeometry/EllipticCurve/GlobalMinimal.lean]: Do we really need these? I thought they're already in mathlib.

File: FormalConjecturesForMathlib/AlgebraicGeometry/EllipticCurve/GlobalMinimal.lean [hunk 7]
```diff
@@ -0,0 +1,122 @@
...
+      (W.baseChange (v.adicCompletion K)).IsMinimal (v.adicCompletionIntegers K) :=
+  isGlobalMinimal_iff W
+
+/-- The exponent of `v` in the minimal discriminant ideal of `W`: the normalized additive
+valuation of the discriminant of a minimal model over the `v`-adic integers.
+The discriminant is nonzero because `W` is elliptic, so its valuation is finite. -/
+noncomputable def localMinimalDiscriminantExponent (W : WeierstrassCurve K) [W.IsElliptic]
+    (v : HeightOneSpectrum (𝓞 K)) : ℕ :=
+  (IsDiscreteValuationRing.addVal (v.adicCompletionIntegers K)
+    (((W.baseChange (v.adicCompletion K)).minimal (v.adicCompletionIntegers K)).integralModel
```
Comment (Multramate) [inline FormalConjecturesForMathlib/AlgebraicGeometry/EllipticCurve/GlobalMinimal.lean]: Can also change this to `\textf`.

**Review by Multramate — CHANGES_REQUESTED** [review]
Let's strip everything that's unnecessary.

File: FormalConjecturesForMathlib/AlgebraicGeometry/EllipticCurve/MinimalDiscriminant.lean [hunk 8]
```diff
@@ -0,0 +1,49 @@
...
+open NumberField IsDedekindDomain
+
+variable {K : Type*} [Field K] [NumberField K]
+
+/-- The exponent of `v` in the minimal discriminant ideal of `W`: the normalized additive
+valuation of the discriminant of a minimal model over the `v`-adic integers.
+The discriminant is nonzero because `W` is elliptic, so its valuation is finite. -/
+noncomputable def localMinimalDiscriminantExponent (W : WeierstrassCurve K) [W.IsElliptic]
+    (v : HeightOneSpectrum (𝓞 K)) : ℕ :=
+  (IsDiscreteValuationRing.addVal (v.adicCompletionIntegers K)
```
Comment (Multramate) [inline FormalConjecturesForMathlib/AlgebraicGeometry/EllipticCurve/MinimalDiscriminant.lean:45]: Don't use `assVal` --- it will be deprecated soon. Do we really need IsElliptic? What happens if you remove it?

File: FormalConjecturesForMathlib/AlgebraicGeometry/EllipticCurve/MinimalDiscriminant.lean [hunk 9]
```diff
@@ -0,0 +1,49 @@
...
+namespace WeierstrassCurve
+
+open NumberField IsDedekindDomain
+
+variable {K : Type*} [Field K] [NumberField K]
+
+/-- The exponent of `v` in the minimal discriminant ideal of `W`: the normalized additive
+valuation of the discriminant of a minimal model over the `v`-adic integers.
+The discriminant is nonzero because `W` is elliptic, so its valuation is finite. -/
+noncomputable def localMinimalDiscriminantExponent (W : WeierstrassCurve K) [W.IsElliptic]
```
Comment (Multramate) [inline FormalConjecturesForMathlib/AlgebraicGeometry/EllipticCurve/MinimalDiscriminant.lean:43]: Maybe just call this `minimalDiscriminantExponent`

File: FormalConjectures/Millenium/BSD.lean [hunk 10]
```diff
@@ -39,6 +39,19 @@ import FormalConjecturesUtil
...
+open NumberField IsDedekindDomain in
+/-- The minimal discriminant ideal of an elliptic curve over a number field is the product of
+the local minimal discriminant ideals `v.asIdeal ^ W.localMinimalDiscriminantExponent v` over
+all nonzero prime ideals `v` of its ring of integers. Only finitely many exponents are nonzero.
+See [LMFDB](https://www.lmfdb.org/knowledge/show/ec.minimal_discriminant). -/
+noncomputable def minimalDiscriminantIdeal {K : Type*} [Field K] [NumberField K]
+    (W : WeierstrassCurve K) [W.IsElliptic] : Ideal (𝓞 K) :=
+  ∏ᶠ v : HeightOneSpectrum (𝓞 K), v.asIdeal ^ W.localMinimalDiscriminantExponent v
+
+end WeierstrassCurve
```
Comment (Multramate) [inline FormalConjectures/Millenium/BSD.lean:53]: Move this to `MinimalDiscriminant.lean` since we probably want this in mathlib too.

**Comment by BarinderBanwait** [comment]
gonna close this PR to start fresh ...
